US08541455B2
1.1. methyl 2-acetyl-3-methylbut-2-enoate
To a mixture of 9.54 g (70 mmol) of anhydrous ZnCl2, 53.9 mL (500 mmol) of methyl acetoacetate and 55 mL (750 mmol) of acetone are added 64 mL of acetic anhydride. The reaction medium is then heated for 3 days at 50° C., and then diluted with 1 L of DCM and washed with water (3×100 mL). The organic phase is dried over Na2SO4, filtered and then concentrated under reduced pressure. The residue obtained is purified by chromatography on a column of silica gel, eluting with a cyclohexane/EtOAc gradient of 0 to 10% EtOAc. After concentrating under reduced pressure, 51.5 g of methyl 2-acetyl-3-methylbut-2-enoate are obtained in the form of a colourless oil.

reactant | methyl acetoacetate | 500 mmol, 53.9 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | acetone | 750 mmol, 55 mL | CC(=O)C | C3H6O
reactant | acetic anhydride | 64 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
catalyst | ZnCl2 | 70 mmol, 9.54 g | [Cl-].[Cl-].[Zn+2]
product | methyl 2-acetyl-3-methylbut-2-enoate | C(C)(=O)C(C(=O)OC)=C(C)C | C8H12O3
